US06573289B1
Production of 1-(6-Ethylnaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
A solution of 1-(6-bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.0 g), tetrakis(triphenylphosphine)palladium (116 mg) and tributylvinyltin (1.40 ml) in toluene (30 ml) was refluxed under argon atmosphere for 80 min. The solvent was distilled off and the residue was purified by column chromatography (eluent, hexane:THF=2:1),then crystallized from isopropyl ether-hexane (1:1) to give the titled compound (1.47 g) as a colorless powder.

reactant | 1-(6-bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | tributylvinyltin | 1.40 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-Ethylnaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.47 g | C(C)C=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C19H22N2O
